US07612114B2
tert-Butyl [2-(2-fluoro-4-formylphenoxy)-1,1-dimethylethyl]carbamate
Synthesized from 4-(2-amino-2-methylpropoxy)-3-fluorobenzonitrile according to an analogous synthetic method to Preparation Example 19, tert-butyl [2-(4-cyano-2-fluorophenoxy)-1,1-dimethylethyl]carbamate (1.0 g) was used according to an analogous synthetic method to Preparation Example 20 to provide the title compound (715 mg).

reactant | 4-(2-amino-2-methylpropoxy)-3-fluorobenzonitrile | NC(COC1=C(C=C(C#N)C=C1)F)(C)C | C11H13FN2O
reactant | tert-butyl [2-(4-cyano-2-fluorophenoxy)-1,1-dimethylethyl]carbamate | 1.0 g | C(#N)C1=CC(=C(OCC(C)(C)NC(OC(C)(C)C)=O)C=C1)F | C16H21FN2O3
product | tert-Butyl [2-(2-fluoro-4-formylphenoxy)-1,1-dimethylethyl]carbamate | 715 mg | FC1=C(OCC(C)(C)NC(OC(C)(C)C)=O)C=CC(=C1)C=O | C16H22FNO4
